US09212182B2
Step 2: (5-bromo-2-((4′-chloro-2-fluoro-5-methoxy-3′-methyl-[1,1′-biphenyl]-4-yl)amino)phenyl)methanol
A flask was charged with methyl 5-bromo-2-((4′-chloro-2-fluoro-5-methoxy-3′-methyl-[1,1′-biphenyl]-4-yl)amino)benzoate (7.15 g, 14.94 mmol). A septum was attached and the flask was flushed with N2. To the flask was added THF (149 ml) and the solution was cooled to 0° C. An ethyl ether solution of lithium aluminum hydride solution (17.92 ml, 17.92 mmol, 1M) was added dropwise via syringe to generate an orange solution. After 10 minutes, water (0.68 mL), and 15% NaOH (0.68 mL) were added. The mixture was stirred 10 minutes and then an additional 2.0 mL water was added to generate a white precipitate. The mixture was filtered through a plug of silica and the mother liquor was concentrated to give a tan foam. This was used in the next reaction without further purification. (ESI) 450.0 (M−H)−.

reactant | methyl 5-bromo-2-((4′-chloro-2-fluoro-5-methoxy-3′-methyl-[1,1′-biphenyl]-4-yl)amino)benzoate | 14.94 mmol, 7.15 g | BrC=1C=CC(=C(C(=O)OC)C1)NC1=CC(=C(C=C1OC)C1=CC(=C(C=C1)Cl)C)F | C22H18BrClFNO3
reactant | ethyl ether | C(C)OCC | C4H10O
reactant | lithium aluminum hydride | 17.92 mmol, 1M, 17.92 ml | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | NaOH | 0.68 mL | [OH-].[Na+]
solvent | water | 2.0 mL | O | H2O
solvent | water | 0.68 mL | O | H2O
product | (5-bromo-2-((4′-chloro-2-fluoro-5-methoxy-3′-methyl-[1,1′-biphenyl]-4-yl)amino)phenyl)methanol | BrC=1C=CC(=C(C1)CO)NC1=CC(=C(C=C1OC)C1=CC(=C(C=C1)Cl)C)F | C21H18BrClFNO2
